US09359362B2
(rac)-Ethyl 5-(4-cyanophenyl)-7-methyl-8-[3-(trifluoromethyl)phenyl]-5,8-dihydroimidazo[1,2-a]-pyrimidine-6-carboxylate
(rac)-Ethyl 5-(4-cyanophenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-6-carboxylate (152 mg, 0.49 mmol), 3-(trifluoromethyl)phenylboronic acid (187 mg, 0.1 mmol, 2 eq.), anhydrous copper(II) acetate (181 mg, 0.1 mmol, 2 eq.) and molecular sieve (200 mg, 4 Å) were initially charged. Under an atmosphere of argon protective gas, abs. dichloromethane (5 ml), pyridine (80 μl, 0.1 mmol, 2 eq.) and triethylamine (137 μl, 0.1 mmol, 2 eq.) were added. After 12 h of stirring, more anhydrous copper(II) acetate (181 mg, 0.1 mmol, 2 eq.) and triethylamine (137 μl, 0.1 mmol, 2 eq.) were added, and the mixture was stirred for a further 48 h. The reaction was then filtered through kieselguhr, and the filtrate was concentrated under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.05% TFA). After lyophilization, the product was obtained as a solid (26 mg, 12% of theory).

reactant | (rac)-Ethyl 5-(4-cyanophenyl)-7-methyl-5,8-dihydroimidazo[1,2-a]pyrimidine-6-carboxylate | 0.49 mmol, 152 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1C=CN2)C)C(=O)OCC | C17H16N4O2
reactant | 3-(trifluoromethyl)phenylboronic acid | 0.1 mmol, 187 mg, 2 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 0.1 mmol, 80 μl, 2 eq. | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 0.1 mmol, 137 μl, 2 eq. | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.1 mmol, 137 μl, 2 eq. | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 0.1 mmol, 181 mg, 2 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 0.1 mmol, 181 mg, 2 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (rac)-Ethyl 5-(4-cyanophenyl)-7-methyl-8-[3-(trifluoromethyl)phenyl]-5,8-dihydroimidazo[1,2-a]-pyrimidine-6-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1C=CN2)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)OCC | C24H19F3N4O2
